US05387594
4-(N-Methyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetamido)benzoic acid
In a manner similar to Example 4(c), by reaction of 2.46 g (10 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetic acid with 1.65 g (10 mmol) of methyl 4-methylaminobenzoate, 2.1 g (54%) of the expected product are obtained in the form of a colorless oil.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetic acid | 10 mmol, 2.46 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC(=O)O)C | C16H22O2
reactant | methyl 4-methylaminobenzoate | 10 mmol, 1.65 g | CNC1=CC=C(C(=O)OC)C=C1 | C9H11NO2
product | 4-(N-Methyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetamido)benzoic acid | 2.1 g, 54% | CN(C(CC1=CC=2C(CCC(C2C=C1)(C)C)(C)C)=O)C1=CC=C(C(=O)O)C=C1 | C24H29NO3
